US06972283B2
A suspension of 4-[(4-methoxyphenyl)methyl]-5-methyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole (18 mg), potassium carbonate (14 mg) and iodomethane (4.7 mg) in acetonitrile (2 mL) was stirred at 75° C. overnight. The reaction mixture was filtered through celite®, and the solvent of the filtrate was removed under reduced pressure. The residue was purified by preparative thin layer chromatography (developing solvent:benzene/acetone=2/1) to give 4-[(4-methoxyphenyl)methyl]-1,5-dimethyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)pyrazole (4 mg).

reactant | 4-[(4-methoxyphenyl)methyl]-5-methyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | 18 mg | COC1=CC=C(C=C1)CC=1C(=NNC1C)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C26H32N2O11
reactant | potassium carbonate | 14 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 4.7 mg | IC | CH3I
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 4-[(4-methoxyphenyl)methyl]-1,5-dimethyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)pyrazole | 4 mg | COC1=CC=C(C=C1)CC=1C(=NN(C1C)C)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C27H34N2O11
